US05554621
Example 25: 1,4-Dihydro-4-[3-[[5-chloro-1-oxo-1-pentyl]amino]phenyl]-2,6-dimethyl-3,5-pyridinedicarboxylic acid, dimethyl ester
4-(3-Aminophenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylic acid, dimethyl ester (2.3 g, 7.28 mmol) was dissolved in THF (50 mL) and cooled to 0° C. 5-Chlorovaleryl chloride (1.13 g, 7.28 mmol) was dissolved in THF (15 mL) and added dropwise to the mixture over 15 min. The mixture was stirred at 0° C. for 1 h., the solvent removed in vacuo, and the residue was extracted using CH2Cl2 /water. The CH2Cl2 layer was dried over Na2SO4, filtered, and concentrated in vacuo. Silica gel chromatography (1:1 to 1:0 EtOAc:hexane gradient) of the concentrate gave the title compound (3.16 g, 100%) as a pale yellow foam.

reactant | 4-(3-Aminophenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylic acid, dimethyl ester | 7.28 mmol, 2.3 g | NC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C17H20N2O4
reactant | 5-Chlorovaleryl chloride | 7.28 mmol, 1.13 g | ClCCCCC(=O)Cl | C5H8Cl2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1,4-Dihydro-4-[3-[[5-chloro-1-oxo-1-pentyl]amino]phenyl]-2,6-dimethyl-3,5-pyridinedicarboxylic acid, dimethyl ester | 3.16 g, 100% | ClCCCCC(=O)NC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C22H27ClN2O5
